US06054605
3-chloro-2-fluoro-6-trifluoromethylbenzonitrile (Compound No. 32)
To a solution of 266 g of 3-chloro-2-fluoro-6-trifluoromethylbenzamide in 2.5 liters of 1,2-dichloroethane was added 339 g of phosphorus oxychloride and then the mixture was heated at reflux for 18.5 hours. After cooling, the solution was gradually added into 2 liters of water maintained at 30-40° C. to hydrolyze the excess amount of phosphorus oxychloride and was then separated. The aqueous layer was extracted with chloroform, and the extract was combined with the organic layer previously obtained, washed with IN aqueous solution of sodium hydroxide, water and saturated saline solution in series, and then dried over anhydrous magnesium sulfate. The solvent was distilled under reduced pressure, and the crude product obtained was washed with chilled n-hexane and then filtered to obtain 228 g of the title compound(mp. 43-44° C.).

reactant | 3-chloro-2-fluoro-6-trifluoromethylbenzamide | 266 g | ClC=1C(=C(C(=O)N)C(=CC1)C(F)(F)F)F | C8H4ClF4NO
reactant | phosphorus oxychloride | 339 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 2 liters | O | H2O
solvent | 1,2-dichloroethane | 2.5 liters | ClCCCl | C2H4Cl2
product | 3-chloro-2-fluoro-6-trifluoromethylbenzonitrile | 228 g | ClC=1C(=C(C#N)C(=CC1)C(F)(F)F)F | C8H2ClF4N
